US05837702
B. (3R-trans)-[(6-Cyano-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4yl)amino]acetic acid, ethyl ester
To a solution of (3R-trans)-4-amino-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile (the title A compound) and ethyl glyoxylate (2.5 g) in methanol (30 mL) and acetic acid (2 mL) at 0° C. under argon atmosphere was added sodium cyanoborohydride (1.5 g). The reaction mixture was stirred at 0 C. for 30 minutes, poured into saturated sodium bicarbonate (150 mL) and extracted with ethyl acetate. The combined organic extracts were dried over anhydrous sodium sulfate and concentrated. The residue was purified by chromatography to give an oil, which solidified upon standing (1.8 g, 48%).

reactant | (3R-trans)-4-amino-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | N[C@@H]1[C@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O | C12H14N2O2
reactant | ethyl glyoxylate | 2.5 g | C(C=O)(=O)OCC | C4H6O3
reactant | sodium cyanoborohydride | 1.5 g | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | 150 mL | C([O-])(O)=O.[Na+]
solvent | methanol | 30 mL | CO | CH4O
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | (3R-trans)-[(6-Cyano-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4yl)amino]acetic acid, ethyl ester | C(#N)C=1C=CC2=C([C@@H]([C@H](C(O2)(C)C)O)NCC(=O)OCC)C1 | C16H20N2O4
